US04977267
69.0 g of 2-chloro-4-pyridinemethanol, 128.3 g of N-bromosuccinimide and 101.9 g of anhydrous sodium carbonate were suspended in 1.8 liters of benzene, and refluxed for 4 hours. After cooling, a saturated aqueous solution of sodium hydrogen carbonate was added little by little with stirring until bubbling ceased. The insoluble matter was removed by filtration. The organic layer was separated, washed with a 10% aqueous solution of sodium thiosulfate once and then a saturated aqueous solution of sodium chloride twice, and dried. The solvent was evaporated to give 64.3 g (yield 95%) of 2 -chloro-4-pyridinecarboxaldehyde.

reactant | 2-chloro-4-pyridinemethanol | 69.0 g | ClC1=NC=CC(=C1)CO | C6H6ClNO
reactant | N-bromosuccinimide | 128.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | sodium carbonate | 101.9 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | benzene | 1.8 liters | C1=CC=CC=C1 | C6H6
product | 2 -chloro-4-pyridinecarboxaldehyde | 64.3 g, yield 95% | ClC1=NC=CC(=C1)C=O | C6H4ClNO
